US05641789
3-Formyl-4-hydroxybenzoic acid
140 g (1.01 mol) of 4-hydroxybenzoic acid were added to a hot solution of 250 g (6.25 mol) of sodium hydroxide in 500 mL H2O. 150 mL of CHCl3 were cautiously added to the hot solution, and after the foaming had ceased, the reaction mixture was stirred overnight at room temperature. The reaction mixture was then diluted to 4 L with H2O, acidified to pH 1 by addition of about 300 mL of concentrated HCl, and extracted two times with 2 L and then three times with 1 L ethyl ether. The ether extracts were combined and a solution of 750 g sodium bisulfite in 3 L H2O was added. This mixture was stirred thoroughly for 2 minutes, then the layers were separated and the aqueous layer was extracted two times with 500 ml ethyl ether. The aqueous layer was acidified by slow addition of a solution of 230 mL concentrated H2SO4 in 230 mL H2O. Vigorous SO2 evolution was noted. The solution was then heated on a steam bath, and a stream of N2 was blown through the hot solution for about 15 minutes until a large amount of crystals formed. The mixture was allowed to stand at room temperature overnight, then cooled to -10° C. for 1/20 hour, then filtered. The crystals were washed two times with H2O and then dried under vacuum to yield 38.46 g of the title product as a tan powder. 23% yield.

reactant | 4-hydroxybenzoic acid | 1.01 mol, 140 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | sodium hydroxide | 6.25 mol, 250 g | [OH-].[Na+]
reactant | CHCl3 | 150 mL | C(Cl)(Cl)Cl | CHCl3
reactant | HCl | about 300 mL | Cl | ClH
solvent | H2O | 500 mL | O | H2O
product | 3-Formyl-4-hydroxybenzoic acid | 38.46 g, 23% yield | C(=O)C=1C=C(C(=O)O)C=CC1O | C8H6O4
